US04319914
Ethyl N-(4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate (13.6 grams; 0.06 mol) and the dimethyl acetal of 2-methylaminoacetaldehyde (20 mol.) were charged into a glass reaction vessel equipped with a stirrer, reflux condenser and gas addition tube. The reaction mixture was blanketed with nitrogen gas and heated at 120° C. for a period of 24 hours. Since starting material remained, the mixture was heated for an additional 48 hours and then for an additional 18 hours. After this time the reaction mixture was distilled to remove excess starting material. The residue was purified by chromatography using ethyl acetate as the eluant on silica gel adsorbant yielding the desired product, dimethyl acetal of 2-[1-methyl-3-(4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde; (8.9; melting point 89°-92° C.). The structure of the product was verified by infrared and NMR spectroscopy.

reactant | Ethyl N-(4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate | 0.06 mol, 13.6 grams | S1C(=NC2=C1CCCC2)NC(OCC)=O | C10H14N2O2S
reactant | 2-methylaminoacetaldehyde | 20 mol | CNCC=O | C3H7NO
product | 2-[1-methyl-3-(4,5,6,7-tetrahydrobenzothiazol-2-yl)ureido]acetaldehyde | CN(C(=O)NC=1SC2=C(N1)CCCC2)CC=O | C11H15N3O2S
